US04036828
77.3 Grams of decyl methylsulfonate, 44.64 grams of 1-ethoxycarbonylpiperazine, 500 ml. of ethanol, and 39 grams of potassium carbonate are combined and refluxed for approximately 44 hours under a nitrogen atmosphere. After cooling to room temperature the residue is dissolved in a mixture of water and ethyl ether. The organic layer is separated, washed three times with portions of water and dried over anhydrous sodium sulfate. The solvents are removed under reduced pressure to give 1-ethoxycarbonyl-4-decylpiperazine.

reactant | decyl methylsulfonate | CS(=O)(=O)OCCCCCCCCCC | C11H24O3S
reactant | 1-ethoxycarbonylpiperazine | 44.64 grams | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | potassium carbonate | 39 grams | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-ethoxycarbonyl-4-decylpiperazine | C(C)OC(=O)N1CCN(CC1)CCCCCCCCCC | C17H34N2O2
